US07754737B2
To a solution of 2-bromo-2-chloro-biphenyl (5.34 g, 20 mmol) in anhydrous THF (50 mL) cooled to −78° C. was added dropwise a solution of 1.6 M n-BuLi in hexane (12.5 mL, 20 mmol). The reaction mixture was stirred at −78° C. for 1 h and a solution of (R)-tert-butyl 3-(N-methoxy-N-methylcarbamoyl)-piperidine-1-carboxylate (5.44 g, 20 mmol) in anhydrous THF (50 mL) was added. The mixture was allowed to warm to rt and stirred overnight. The mixture was quenched with sat'd aq NH4Cl (100 mL) and extracted with EtOAc (3×75 mL). The combined organic layers were dried over Na2SO4 and concentrated to give the crude product, which was purified by flash column chromatography to afford (3R)-1-(tert-butoxycarbonyl)-3-((2-(2-chlorophenyl))benzoyl)piperidine (4.43 g, 55%).

reactant | 2-bromo-2-chloro-biphenyl | 20 mmol, 5.34 g | BrC1(C(=CC=CC1)C1=CC=CC=C1)Cl | C12H10BrCl
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | hexane | 20 mmol, 12.5 mL | CCCCCC | C6H14
reactant | (R)-tert-butyl 3-(N-methoxy-N-methylcarbamoyl)-piperidine-1-carboxylate | 20 mmol, 5.44 g | CON(C(=O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C | C13H24N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (3R)-1-(tert-butoxycarbonyl)-3-((2-(2-chlorophenyl))benzoyl)piperidine | 4.43 g, 55% | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)C(C1=C(C=CC=C1)C1=C(C=CC=C1)Cl)=O | C23H26ClNO3
